US06232313B1
4-hydroxy-8-nitro-2-phenyl-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione.
To a stirred suspension of diethyl 6-nitro-4-hydroxy-quinoline-2,3-dicarboxylate (1.670 g, 5.00 mM) in ethanol (30 mL) vas added phenyl hydrazine (3.44 mL, 35.00 mM) to give a deep red solution. The solution was heated to reflux for 1 hour and concentrated to about 15 mL. Continued heating gave a thick suspension which was diluted with ethanol (5 mL) and refluxed for 16 additional hours. The mixture was cooled to room temperature and filtered to give the phenyl hydrazine salt of the title compound as a tan solid. This material was refluxed in glacial acetic acid (25 mL) for 2 hours and cooled to room temperature. Filtration gave the title compound (1.01 g, 58%) as a tan powder, mp 368° C. (decomp.); MS(CI): 351 (M+H).

reactant | diethyl 6-nitro-4-hydroxy-quinoline-2,3-dicarboxylate | 5.00 mM, 1.670 g | [N+](=O)([O-])C=1C=C2C(=C(C(=NC2=CC1)C(=O)OCC)C(=O)OCC)O | C15H14N2O7
reactant | phenyl hydrazine | 35.00 mM, 3.44 mL | C1(=CC=CC=C1)NN | C6H8N2
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-hydroxy-8-nitro-2-phenyl-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione | OC1=NN(C(C2=C1NC=1C=CC(=CC1C2=O)[N+](=O)[O-])=O)C2=CC=CC=C2 | C17H10N4O5
